US05576334
t-Butyl 4-[3-(4-amidinobenzoyl)ureido]phenoxyacetate
In a similar manner to Example 1, t-butyl 4-[3-(4-thiocarbamoylbenzoyl)ureido]phenoxyacetate (4.4 g) was reacted with iodomethane (25 ml) and acetone (450 ml) and the resultant product was treated with ammonium acetate (10 g), methanol (400 ml) and dichloromethane (100 ml) at ambient temperature. This yielded a crude yellow solid (1.2 g), which was triturated with methanol, collected, washed with methanol and then stirred with 50% aqueous acetic acid solution (15 ml). Any solid material was filtered and discarded and the filtrate was evaporated and triturated under a mixture of ether and methanol to give the title compound (300 mg) as an off-white solid: NMR Spectrum (DMSO-d6) 1.44 (9H, s), 1.77 (1.8H, s), 4.62 (2H, s), 6.90 (2H, d), 7.49 (2H, d), 7.92 (2H, d), 8.15 (2H, d), 9.50-10.4 (3H, br), 10.60 (1H s); Mass Spectrum m/Z 413 (M+H)+ ; Elemental Analysis: calculated for C21H24N4O5. 0.6 CH3CO2H. 1.5 H2O: C, 56.0%; H, 6.2%; N, 11.7%; found: C, 56.3%; H, 6.2%; N, 11.1%.

reactant | t-butyl 4-[3-(4-thiocarbamoylbenzoyl)ureido]phenoxyacetate | 4.4 g | C(N)(=S)C1=CC=C(C(=O)NC(NC2=CC=C(OCC(=O)OC(C)(C)C)C=C2)=O)C=C1 | C21H23N3O5S
reactant | iodomethane | 25 ml | IC | CH3I
reactant | acetone | 450 ml | CC(=O)C | C3H6O
reactant | ammonium acetate | 10 g | C(C)(=O)[O-].[NH4+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | methanol | 400 ml | CO | CH4O
product | t-Butyl 4-[3-(4-amidinobenzoyl)ureido]phenoxyacetate | 300 mg | C(N)(=N)C1=CC=C(C(=O)NC(NC2=CC=C(OCC(=O)OC(C)(C)C)C=C2)=O)C=C1 | C21H24N4O5
